US05206235
Step B: 2-Benzyloxy-2-methylpropionaldehyde
A mixture of 100 mL of water, 300 mL of dioxane, 20 g (0.11 mol) of 2-benzyloxy-2-methyl-3-butene and 1 g of osmium tetroxide was stirred at room temperature for 30 minutes then 51 g (0.22 mol) of finely ground sodium periodate was added in portions over 30 minutes. Stirring was continued for 2 hours then the mixture filtered and the filtrate extracted with several portions of ether. The combined extracts were dried over magnesium sulfate, filtered and the filtrate concentrated under vacuum. Distillation afforded 7.3 g (0.041 mol,37%) of product, b.p. 85°-88° C. (2 mm).

reactant | water | 100 mL | O | H2O
reactant | 2-benzyloxy-2-methyl-3-butene | 0.11 mol, 20 g | C(C1=CC=CC=C1)OC(C)(C=C)C | C12H16O
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetroxide | 1 g | [Os](=O)(=O)(=O)=O
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 2-Benzyloxy-2-methylpropionaldehyde | 0.041 mol, 7.3 g, 37% | C(C1=CC=CC=C1)OC(C=O)(C)C | C11H14O2
